US05698691
(8) 7-Chloro-5-(2-chlorophenyl)-1-isobutyl-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one
A solution of 5-(2-chlorophenyl)-1-isobutyl-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one (2.7 g) and N-chlorosuccinimide (1.65 g) in dimethylformamide (10 ml) was stirred for 7 hours at 70° C. To the reaction mixture was added acetic acid ethyl ester (100 ml), which was washed with dilute hydrochloric acid and a saturated aqueous solution of sodium hydrogencarbonate, followed by drying over anhydrous sodium sulfate. The solvent was removed, and the residue was recrystallized from hexane/acetic acid ethyl ester to give 2.39 g of colorless crystals, m.p. 152°-154° C.

reactant | 5-(2-chlorophenyl)-1-isobutyl-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | 2.7 g | ClC1=C(C=CC=C1)C1CCC(N(C2=C1C=CC=C2)CC(C)C)=O | C20H22ClNO
reactant | N-chlorosuccinimide | 1.65 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | acetic acid ethyl ester | 100 ml | C(C)OC(C)=O | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-5-(2-chlorophenyl)-1-isobutyl-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | 2.39 g | ClC=1C=CC2=C(C(CCC(N2CC(C)C)=O)C2=C(C=CC=C2)Cl)C1 | C20H21Cl2NO
